US04107157
5-Allyl-5-(β-carboxy-α-methyl-ethyl)-barbituric acid (10 mg.) was dissolved in 0.5 ml. dimethyl formamide (DMF) and was treated first with a solution of 5 mg. dicyclohexyl carbodiimide (DCC) in 0.5 ml. DMF and then with a solution of 12 mg. p-nitrophenol in 0.5 ml. DMF at 4° C. After standing overnight at this temperature, the mixture was evaporated to dryness and then dissolved in 1.5 ml. of a 1:1 mixture of glycerine-water. Bovine serum albumin (20 mg.) was added and the mixture was allowed to react for eight hours at room temperature and then overnight at 4° C. The product was then dialyzed against distilled water for two days to remove unreacted barbituric acid derivative and the p-nitrophenol which was displaced from the barbituric acid by the protein, to afford the bovine serum albumin-barbituric acid conjugate. The degree of substitution was estimated to be 2-3 moles of barbiturates per mole of protein, calculated from the extinction coefficient of the absorbtion at 202 mμ.

reactant | 5-Allyl-5-(β-carboxy-α-methyl-ethyl)-barbituric acid | 10 mg | C(C=C)C1(C(NC(NC1=O)=O)=O)C(CC(=O)O)C | C11H14N2O5
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | DMF | CN(C=O)C | C3H7NO
product | barbituric acid | N1C(=O)NC(=O)CC1=O | C4H4N2O3
